US07468376B2
a) N-Methoxy-6,N-dimethyinicotinamide
To a solution of 6-methylnicotinic acid (5.00 g, 36.5 mmol) in DMF (150 mL), 1-hydroxybenzotriazole (4.92 g, 36.5 mmol), N-ethyl-N-(3-dimethylaminopropyl)carbodimide hydrochloride (8.38 g, 45.7 mmol) and 4-methylmorpholine (16.0 mL, 145.8 mmol) were added under argon atmosphere. The mixture was stirred at room temperature for 30 minutes after which N,O-dimethylhydroxylamine hydrochloride was added (3.55 g, 36.5 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated off. The residue was dissolved in a mixture of CHCl3 and 0.2 N NaHCO3. The phases were separated and the aqueous phase was extracted with CHCl3. The organic phase was dried over Na2SO4 and concentrated to dryness. The product was purified by chromatography on silica gel using hexane-EtOAc mixtures of increasing polarity as eluent, to afford 1.11 g of the desired product (yield: 29%).

reactant | 6-methylnicotinic acid | 36.5 mmol, 5.00 g | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-hydroxybenzotriazole | 36.5 mmol, 4.92 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N-(3-dimethylaminopropyl)carbodimide hydrochloride | 45.7 mmol, 8.38 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-methylmorpholine | 145.8 mmol, 16.0 mL | CN1CCOCC1 | C5H11NO
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-6,N-dimethyinicotinamide | 1.11 g, yield: 29% | CON(C(C1=CN=C(C=C1)C)=O)C | C9H12N2O2
